US06638926B2
(5-Methyl-2H-pyrazol-3-yl)-(2-phenyl-pyrido[2,3-d]pyrimidin-4-yl)-amine (IV-31)
To a solution of 4-chloro-2-phenyl-pyrido[2,3-d]pyrimidine (J. Pharm. Belg., 29, 1974, 145-148) (109 mg, 0.45 mmol) in THF (15 mL) was added 3-amino-5-methyl pyrazole (48 mg, 0.5 mmol) and the resulting mixture heated at 65° C. overnight. The mixture was cooled to room temperature and the resulting suspension was filtered and washed with Et2O. The solid was dissolved in a mixture EtOH:water and the pH adjusted to pH 7. The aqueous was extracted twice with ethyl acetate and the combined organic layers were dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, DCM-MeOH gradient) to afford IV-31 as an off-white solid (69 mg, 50%): mp 234° C.; 1H NMR (DMSO) δ2.14 (3H, s), 5.99 (1H, s), 7.20-7.40 (3H, m), 7.40-7.50 (3H, m), 8.60 (1H, d), 8.79 (1H, d), 12.82 (1H, br s); IR (solid) 2957, 2921, 2857, 1644, 1560, 1459, 1427; MS 303.2 (M+H)+.

reactant | 4-chloro-2-phenyl-pyrido[2,3-d]pyrimidine | 0.45 mmol, 109 mg | ClC=1C2=C(N=C(N1)C1=CC=CC=C1)N=CC=C2 | C13H8ClN3
reactant | 3-amino-5-methyl pyrazole | 0.5 mmol, 48 mg | NC1=NNC(=C1)C | C4H7N3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (5-Methyl-2H-pyrazol-3-yl)-(2-phenyl-pyrido[2,3-d]pyrimidin-4-yl)-amine | 69 mg, 50% | CC=1C=C(NN1)NC=1C2=C(N=C(N1)C1=CC=CC=C1)N=CC=C2 | C17H14N6
